US07402672B2
3-(3-Fluoro-phenylsulfanyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide, Ic-3
Treat 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide 6c-1 (1.0 equiv) in DMF (100 mL) with bis-(3-fluorophenyl)disulfide (1.0 equiv) as described above in General Procedure IVb to give Ic-3 as a tan solid: 1H NMR (DMSO-d6) δ 12.77 (bs, 1H), 8.87 (s, 1H), 8.2 (d, J=5.2 Hz, 1H) partially overlapping with 8.13 (bs, 1H), 7.81 (bs, 1H), 7.42 (d, J=5.5 Hz, 1H), 7.26 (m, 1H), 6.96 (m, 1H), 6.84 (m, 2H); m/z=288.04 (M+H).

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide | N1C(=CC=2C1=CN=CC2)C(=O)N | C8H7N3O
reactant | bis-(3-fluorophenyl)disulfide | 1.0 equiv | FC=1C=C(C=CC1)SSC1=CC(=CC=C1)F | C12H8F2S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-(3-Fluoro-phenylsulfanyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid amide | FC=1C=C(C=CC1)SC1=C(NC2=CN=CC=C21)C(=O)N | C14H10FN3OS
